US06492394B1
To a mixture of tert-butyl-2(R)-[(3,4-methylendioxybenzyl)-(2,6-dimethyl-4-methoxybenzenesulfonyl)amino]-3-amino-propionate (1.02 g, 2.0 mmol), 1-(2-carboxyphenyl)pyrrole (581 mg, 3.1 mmol), 1-hydroxybenzotriazole hydrate (279 mg, 2.0 mmol), N-methylmorpholine (0.8 ml, 7.3 mmol) and 4-dimethylaminopyridine (30 mg, 0.25 mmol) in dry dimethylformamide (25 ml) was added 1-ethyl-3,3-dimethylamino)-propyl carbodiimide hydrochloride salt (600 mg, 3.1 mmol) and the material was stirred overnight. The dimethylformamide was removed on the rotary evaporator and the residue was taken up in ethyl acetate (80 ml) and partitioned with an equal volume of aqueous hydrochloric acid (1.5%, 80 ml). The organic phase was collected and washed with equal volumes of 5% aqueous sodium bicarbonate and then brine. The aqueous phases were back extracted with ethyl acetate (2×80 ml) and the organic phases combined, dried over magnesium sulfate, filtered and condensed to provide a residue. This material was chromatographed using preparative TLC plates (45% ethyl acetate/hexanes) to afford tert-butyl-2(R)-[(3,4-methylendioxybenzyl)-(2,6-dimethyl-4-methoxybenzenesulfonyl)amino]-3-[(2-pyrrol-1-yl)phenylcarbonylamino]-propionate) as a pale yellow foamy solid (927 mg).

reactant | tert-butyl-2(R)-[(3,4-methylendioxybenzyl)-(2,6-dimethyl-4-methoxybenzenesulfonyl)amino]-3-amino-propionate | 2.0 mmol, 1.02 g | C(C)(C)(C)OC([C@@H](CN)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC2=C(C=C1)OCO2)=O | C24H32N2O7S
reactant | 1-(2-carboxyphenyl)pyrrole | 3.1 mmol, 581 mg | C(=O)(O)C1=C(C=CC=C1)N1C=CC=C1 | C11H9NO2
reactant | 1-hydroxybenzotriazole hydrate | 2.0 mmol, 279 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 7.3 mmol, 0.8 ml | CN1CCOCC1 | C5H11NO
reactant | propyl carbodiimide hydrochloride salt | 3.1 mmol, 600 mg | Cl.C(CC)N=C=N
catalyst | 4-dimethylaminopyridine | 0.25 mmol, 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | tert-butyl-2(R)-[(3,4-methylendioxybenzyl)-(2,6-dimethyl-4-methoxybenzenesulfonyl)amino]-3-[(2-pyrrol-1-yl)phenylcarbonylamino]-propionate | C(C)(C)(C)OC([C@@H](CNC(=O)C1=C(C=CC=C1)N1C=CC=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC2=C(C=C1)OCO2)=O | C35H39N3O8S
